US08669234B2
(1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-oxo-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester
(1-{8-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-1,4-dioxa-7-aza-spiro[4.4]nonane-7-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (230.0 mg, 0.453 mmol) was dissolved in acetone (10 mL) and water (0.2 mL) and p-TsOH.H2O (53 mg, 0.278 mmol) were added. The reaction was heated at 60° C. for 20 hours, after which additional p-TsOH.H2O (53 mg, 0.278 mmol) was added heating at 60° C. was continued. After three days, all volatiles were removed in vacuo. The crude material was taken into EtOAc and was washed with aqueous sodium bicarbonate solution and dried over sodium sulfate. Filtration and evaporation of solvents in vacuo gives the crude product. The crude material was purified via silica gel chromatography (eluent: EtOAc containing 10% MeOH/hexanes) to yield the product (93.9 mg, 0.202 mmol).

reactant | (1-{8-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-1,4-dioxa-7-aza-spiro[4.4]nonane-7-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.453 mmol, 230.0 mg | COC(NC(C(C)C)C(=O)N1CC2(OCCO2)CC1C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C22H27BrN4O5
reactant | water | 0.2 mL | O | H2O
reactant | p-TsOH.H2O | 0.278 mmol, 53 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | p-TsOH.H2O | 0.278 mmol, 53 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | (1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-oxo-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.202 mmol, 93.9 mg | COC(NC(C(C)C)C(=O)N1C(CC(C1)=O)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C20H23BrN4O4
